US08664257B2
(S)-3-{[1-(2-Fluoro-phenyl)-5-(2-hydroxy-3,3-dimethyl-butoxy)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid
50 mg (0.1 mmol) of (S)-3-{[5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid were dissolved in 5 ml of DCM and 0.05 mmol of sodium borohydride were added. The mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue subjected to preparative HPLC to given 52% of the title compound.

reactant | (S)-3-{[5-(3,3-dimethyl-2-oxo-butoxy)-1-(2-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid | 0.1 mmol, 50 mg | CC(C(COC1=CC(=NN1C1=C(C=CC=C1)F)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)C)=O)(C)C | C26H28FN3O5
reactant | sodium borohydride | 0.05 mmol | [BH4-].[Na+]
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-{[1-(2-Fluoro-phenyl)-5-(2-hydroxy-3,3-dimethyl-butoxy)-1H-pyrazole-3-carbonyl]-amino}-3-o-tolyl-propionic acid | FC1=C(C=CC=C1)N1N=C(C=C1OCC(C(C)(C)C)O)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)C | C26H30FN3O5
